US06630509B2
(a) N-[4-(2-Hydroxyethyl)phenyl]-2-methylpropanamide
4-Aminophenylethyl alcohol (21 g, 0.153 mol) was dissolved in acetone (200 ml). The solution was heated to reflux and 2-methylpropionic anhydride (24.15 g, 0.153 mol) was added dropwise. The mixture was heated to reflux for 1 hour and HPLC showed the reaction was not complete. More (1.0 g) of 2-methylpropionic anhydride was added and it was refluxed for 1.5 hours more. The reaction mixture was then evaporated in vacuum to dry. The residue was dissolved in warm dichloromethane (150 ml) and then cooled down to room temperature. Heptane (200 ml) was dropped into the solution and crystals fell out. The crystals were filtered and washed with heptane. 30.7 g of titled product was obtained, yield 97%.

reactant | 4-Aminophenylethyl alcohol | 0.153 mol, 21 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | 2-methylpropionic anhydride | 0.153 mol, 24.15 g | CC(C(=O)OC(C(C)C)=O)C | C8H14O3
solvent | acetone | 200 ml | CC(=O)C | C3H6O
catalyst | 2-methylpropionic anhydride | 1.0 g | CC(C(=O)OC(C(C)C)=O)C | C8H14O3
product | N-[4-(2-Hydroxyethyl)phenyl]-2-methylpropanamide | 30.7 g, yield 97% | OCCC1=CC=C(C=C1)NC(C(C)C)=O | C12H17NO2
